* Testcase 000640 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVSS VSS 0 0
VIN IN 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
R3 VDD N1 10k
XM1 N1 IN GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
D3 VDD N2 DIDEAL
XM2 N2 N1 N3 N3 sky130_fd_pr__nfet_01v8 l=0.5 w=5
D4 N3 N4 DIDEAL
D5 N4 N5 DIDEAL
R5 IN N5 10k
XR7 N5 N5 VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
D6 VDD N7 DIDEAL
D2 N7 N8 DIDEAL
D1 N8 N6 DIDEAL
XR6 N6 N5 VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=5
C1 N3 N6 1p
R4 VDD N9 10k
C2 GND N9 1p
R2 N9 GND 10k
R1 VDD OUT 10k
XM5 OUT N9 N10 N10 sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM6 N10 N6 GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

ac dec 100 1 10g
let vout_mag = vm(OUT)
let gain_db = db(vout_mag)
let dc_gain_db = gain_db[0]
print dc_gain_db

if dc_gain_db > 0
    meas ac ugbw WHEN gain_db=0 CROSS=1
end

quit
.endc

.end
