* Testcase 000648 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VLABEL_NET_0 LABEL_NET_0 0 DC 0.9 AC 0.5

* Circuit
XQ1 N2 N0 N1 0 sky130_fd_pr__npn_05v5_W1p00L1p00
R1 N2 N4 10k
C1 N1 N3 1p
C2 N0 N1 1p
C3 N3 N7 1p
R2 N1 N3 10k
R3 N0 N4 10k
R4 N0 N3 10k
C4 N5 N6 1p
R5 N7 N7 10k
R6 N3 N6 10k
R7 N2 LABEL_NET_0 10k
XQ2 N7 N6 N6 0 sky130_fd_pr__npn_05v5_W1p00L1p00
R8 N0 N5 10k

.control
set filetype=ascii

op
let power_dc = abs(i(VLABEL_NET_0)) * 1.8
print power_dc
let dc_voltage = v(N0)
print dc_voltage

quit
.endc

.end
